US08026234B2
Compound 108: (R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-(dimethylamino)acetyl)piperidin-4-yl)-3-methoxybenzamide
The title compound was synthesized from (R)-4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid as described in the General procedure for amide bond synthesis using HATU and 1-Boc-4-aminopiperidine. Further, after washing with water (10 ml), t-butoxycarbonyl (Boc) protection group was removed using 40% TFA in dichloromethane (6 ml). The resulting product was further acylated using N,N-dimethylacetyl chloride. The title product using preparative HPLC and neutralized with bicarbonate. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.41-2.05 (m, 12H) 2.19 (s, 6H) 2.92-3.21 (m, 4H) 3.28 (s, 3H) 3.72-3.87 (m, 2H) 3.94 (s, 3H) 3.99-4.20 (m, 2H) 4.36 (d, J=15.41 Hz, 1H) 4.89 (d, J=8.34 Hz, 1H) 5.31-5.45 (m, 2H) 6.01 (ddd, J=17.49, 12.69, 10.74 Hz, 1H) 7.47 (d, J=1.77 Hz, 2H) 7.83 (s, 1H) 8.15 (d, J=7.83 Hz, 2H) 8.31 (d, J=8.08 Hz, 1H). [M+H] calc'd for C32H43FN8O4, 623. found 623.

reactant | (R)-4-(9-cyclohexyl-7-fluoro-7-vinyl-5-methyl-6-oxo-6,7,8,9-tetrahydro-5H-pyrimido[5,4-b][1,4]diazepin-2-ylamino)-3-methoxybenzoic acid | C1(CCCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)O)C=C2)OC | C24H28FN5O4
reactant | HATU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1-Boc-4-aminopiperidine | C(=O)(OC(C)(C)C)N1CCC(CC1)N | C10H20N2O2
product | (R)-4-(9-cyclopentyl-7-fluoro-5-methyl-6-oxo-7-vinyl-6,7,8,9-tetrahydro-5H-pyrimido[4,5-b][1,4]diazepin-2-ylamino)-N-(1-(2-(dimethylamino)acetyl)piperidin-4-yl)-3-methoxybenzamide | C1(CCCC1)N1C2=C(N(C([C@](C1)(C=C)F)=O)C)C=NC(=N2)NC2=C(C=C(C(=O)NC1CCN(CC1)C(CN(C)C)=O)C=C2)OC | C32H43FN8O4
